US06300502B1
A mixture of 4,4′-dibromodiphenylamine (7.3 g. 22 mmol), cyclohexane-1,4-dione (2.5 g., 23.3 mole), para-toluenesulfonic acid (0.1 g.) and toluene (100 ml) was kept at reflux with a Dean-Stark phase separator containing 4A molecular sieves. After 18 hours at reflux, the reaction was diluted with toluene, and the toluene solution was washed with water, dried and concentrated. The residue was dissolved in hexanes, and the hexanes solution was passed through a column of silica gel to afford 4,4′-dibromotriphenylamine as a colorless glass, 5.04 g., 67% yield. Mass Spec (m/z): 401, 403, 405 (M+).

reactant | 4,4′-dibromodiphenylamine | 22 mmol, 7.3 g | C1=CC(=CC=C1NC2=CC=C(C=C2)Br)Br | C12H9Br2N
reactant | cyclohexane-1,4-dione | 23.3 mole, 2.5 g | C1(CCC(CC1)=O)=O | C6H8O2
reactant | para-toluenesulfonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4,4′-dibromotriphenylamine | 67% yield | C1=CC=C(C=C1)N(C2=CC=C(C=C2)Br)C3=CC=C(C=C3)Br | C18H13Br2N
